US07893092B2
f) Preparation of 2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [4-chloro-2-(2-hydroxy-propylcarbamoyl)-6-methyl-phenyl]-amide
A solution of 3.5 g (7.9 mmol) 6-chloro-2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-8-methylbenzo[d][1,3]oxazin-4-one and 2.5 g 1-amino-2-propanol in 50 ml THF is heated to a temperature of 60° C. for 2 hours. The solvent is then evaporated and the residue is treated with 50 ml hexane. After decantation of the hexane phase, the residue is crystallised in 10 ml isopropanol to give 3.65 g (89%) white crystals (m.p. 193-197° C.).

reactant | 6-chloro-2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-8-methylbenzo[d][1,3]oxazin-4-one | 7.9 mmol, 3.5 g | ClC1=CC2=C(N=C(OC2=O)C=2N(N=C(C2)C(F)(F)F)C2=NC=CC=C2Cl)C(=C1)C | C18H9Cl2F3N4O2
reactant | 1-amino-2-propanol | 2.5 g | NCC(C)O | C3H9NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [4-chloro-2-(2-hydroxy-propylcarbamoyl)-6-methyl-phenyl]-amide | 3.65 g, 89% | ClC1=CC(=C(C(=C1)C)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)C(NCC(C)O)=O | C21H18Cl2F3N5O3
